US09315521B2
A mixture of 2-(bromomethyl)-1-methyl-benzimidazole hydrobromide (6.8 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (740 mg, 5.2 mmol), and triethylamine (4 mL, 28.7 mmol) in absolute ethanol (30 mL) was stirred at room temperature overnight. The mixture was recovered, evaporated, and then co-evaporated with EtOAc (20 mL). The solid residue was treated with water (200 mL). The solid product was recovered by filtration, washed with water (2×20 mL), diethyl ether (2×20 mL), and hexanes (2×20 mL), and then dried in vacuo, affording 6-methyl-2-{[(1-methyl-1H-benzimidazol-2-yl)methyl]sulfanyl}pyrimidin-4-ol (1.3 g, 90% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.18 (s, 3H), 3.83 (s, 3H), 4.70 (s, 2H), 6.02 (s, 1H), 7.19 (m, 2H), 7.53 (m, 2H); M+287. The product was used without further purification.

reactant | 2-(bromomethyl)-1-methyl-benzimidazole hydrobromide | 6.8 mmol | Br.BrCC1=NC2=C(N1C)C=CC=C2
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 5.2 mmol, 740 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 28.7 mmol, 4 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 6-methyl-2-{[(1-methyl-1H-benzimidazol-2-yl)methyl]sulfanyl}pyrimidin-4-ol | 1.3 g, 90% yield | CC1=CC(=NC(=N1)SCC1=NC2=C(N1C)C=CC=C2)O | C14H14N4OS
